US07759389B2
To a solution of 7-(3-Fluoro-benzenesulfonyl)-chroman-4-one (3.31 g, 10.81 mmol) in THF (100 ml) was added NaBH4 (0.49 g, 12.9 mmol) at 0° C. The mixture was stirred at 0° C. for 3 hours. The reaction mixture was partitioned between water and EtOAc. The EtOAc layer was washed with brine, dried with MgSO4, filtered and concentrated. The residue was purified with flash chromatography to give 2.0 g of 7-(3-Fluorobenzene-sulfonyl)-chroman-4-ol, as a white foam. MS: 599.2 (2M−OH)+.

reactant | 7-(3-Fluoro-benzenesulfonyl)-chroman-4-one | 10.81 mmol, 3.31 g | FC=1C=C(C=CC1)S(=O)(=O)C1=CC=C2C(CCOC2=C1)=O | C15H11FO4S
reactant | NaBH4 | 12.9 mmol, 0.49 g | [BH4-].[Na+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 7-(3-Fluorobenzene-sulfonyl)-chroman-4-ol | 2.0 g | FC=1C=C(C=CC1)S(=O)(=O)C1=CC=C2C(CCOC2=C1)O | C15H13FO4S
